US04735940
70.8 mg of 7-hydroxy-8-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) and 38.2 ml of N-(2-methoxyethyl)-2-propynamide were heated for a long time in toluene under argon. The solvent was removed in vacuo and the residue was chromatographed on silica gel. After recrystallization from ethyl acetate, there was obtained N-(2-methoxyethyl)-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxamide as yellow crystals of m.p. 201°-202°.

reactant | 7-hydroxy-8-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | 70.8 mg | [OH-].OC1=C(SC=2C3=[N+](C=CC21)C=CS3)C3=CC=CC=C3
reactant | N-(2-methoxyethyl)-2-propynamide | 38.2 ml | COCCNC(C#C)=O | C6H9NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-methoxyethyl)-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxamide | COCCNC(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C21H18N2O3S
